US05328923
A. 4-Methyl-1-(phenoxycarbonyl)-1,4-dihydropyridine
In a dry 500 ml three neck flask under nitrogen, a solution of cuprous iodide (0.28 g, 1.5 mmol) and dimethyl sulfide (8 ml) in 30 ml of dry THF was stirred at room temperature for 10 minutes. Pyridine (2.43 ml, 30 mmol) in 120 ml of dry THF was added to the reaction, then cooled to -25° C. Phenylchloroformate (3.9 ml, 30 mmol) in 10 ml dry THF was added to the reaction via an addition funnel (a thick brown precipitate formed immediately upon addition). The mixture was stirred for 15 minutes. Methyl magnesium chloride (10 ml, 30 mmol) was added to the mixture via syringe whereupon the brown precipitate dissolved. The reaction was stirred at -25° C. for 20 minutes then stirred at room temperature for 20 minutes. 20% NH4Cl(aq) (70 ml) was added to the reaction. The mixture was then extracted with 150 ml diethyl ether. The organic extract was then washed with 40 ml portions of 20% NH4Cl(aq) /NH4OH (1:1), water, 10% HCl(aq), water, and brine. The organic layer was then dried over NaCl/Na2SO4, filtered, and concentrated to yield 5.9 g of a yellow oil. Kugelrohr distillation (bp. 150°-170° C., 1 mmHg) to yield 4.9 g (77%) of the desired compound (A).

reactant | dimethyl sulfide | 8 ml | CSC | C2H6S
reactant | Pyridine | 30 mmol, 2.43 ml | N1=CC=CC=C1 | C5H5N
reactant | Phenylchloroformate | 30 mmol, 3.9 ml | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
reactant | Methyl magnesium chloride | 30 mmol, 10 ml | C[Mg]Cl
reactant | NH4Cl | 70 ml | [NH4+].[Cl-]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 120 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-Methyl-1-(phenoxycarbonyl)-1,4-dihydropyridine | 5.9 g | CC1C=CN(C=C1)C(=O)OC1=CC=CC=C1 | C13H13NO2
